US04026830
To a slurry of 44 g (0.13 mole) of 4-(phenylsulfonyl) benzenediazonium tetrafluoroborate in 400 ml of ethyl acetate was added 22.8 ml (0.17 mole)of dichlorophenylphosphine and 0.5 g of copper (I) chloride. After the reaction had been stirred for two hours at room temperature with no apparent change, it was heated to 30° C. (this reaction can be vigorous and care should be used). Evolution of gas occurred, and the solid dissolved. Heating was continued for 1.5 hr., the mixture was then cooled, and 125 ml of water was added. The ethyl acetate and volatile by-products were removed by steam distillation, and then the aqueous residue was cooled and filtered to give a solid that, while still wet, wasdissolved in approximately 2 liters of dilute sodium hydroxide. The resulting solution was filtered to remove insoluble non-acidic material and acidified with hydrochloric acid to give 36 g (80%) of crude product, m.p. 220°-4° C. This material was crystallized from 80% ethanol to give 20 g (45%) of phenyl[4-(phenylsulfonyl)phenyl]phosphinic acid. m.p. 225°-8° C. Anal. Calcd. for C18H15O4PS: C, 60.3; H, 4.23; P, 8.64; S, 8.95. Found: C, 60.2; H, 4.49; P, 8.77; S, 9.49.

reactant | 4-(phenylsulfonyl) benzenediazonium tetrafluoroborate | 0.13 mole, 44 g | F[B-](F)(F)F.C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)[N+]#N
reactant | dichlorophenylphosphine | 0.17 mole, 22.8 ml | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
reactant | water | 125 ml | O | H2O
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | approximately 2 liters | [OH-].[Na+]
catalyst | copper (I) chloride | 0.5 g | [Cu]Cl
product | phenyl[4-(phenylsulfonyl)phenyl]phosphinic acid | 20 g, 45% | C1(=CC=CC=C1)P(O)(=O)C1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C18H15O4PS
